US09328067B2
4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid
A mixture of methyl 4-(((4-chloro-2-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)phenyl)thio)methyl)benzoate (635 mg, 1.155 mmol), NaOH (5M, 2 ml) in MeOH (10 ml) was stirred at room temperature overnight. The solvent was removed and the residue was diluted with water, acidified with 10% HCl. The mixture was extracted with EtOAc (2×20 ml). The combined organic layer was washed with brine and concentrated under vacuum. The desire product was purified by MPLC (50% to 100% EtOAc/Hexane).

reactant | methyl 4-(((4-chloro-2-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)phenyl)thio)methyl)benzoate | 1.155 mmol, 635 mg | ClC1=CC(=C(C=C1)SCC1=CC=C(C(=O)OC)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C22H16Cl2F3NO4S2
reactant | NaOH | 5M, 2 ml | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | 4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid | ClC1=CC(=C(C=C1)SCC1=CC=C(C(=O)O)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO4S2
